US06727264B1
N-(3-{1-[(6-CHLORO-1H-INDOL-3-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
A solution of 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide (0.369 g, 1.50 mmol) and 37 wt % aqueous formaldehyde (30.0 mg, 1.50 mmol) in 1 mL of HOAc:dioxane (1:4) was added to 6-chloro-1-H-indole (0.152 g, 1.00 mmol) and the reaction mixture was stirred for 12 h at room temperature. The resulting mixture was diluted with H2O (10 mL). The aqueous layer was extracted with CH2Cl2 (3×100 mL). The combined organic extracts were washed with brine (10 mL), dried over MgSO4, and concentrated in vacuo. The residue was purified by preparative TLC on silica using 5% of NH3 (2.0 M in methanol) in CH2Cl2 to give the desired product (79 mg, 42%). 1H NMR (400 MHz, CDCl3) δ 9.14 (s, 1H), 8.04 (s, 1H), 7.52 (t, 2H, J=8.1 Hz), 7.35 (d, 2H, J=13.3 Hz), 7.18 (t, 1H, J=7.9 Hz), 7.09 (dd, 1H, J=1.9, 8.5 Hz), 6.85 (d, 1H, J=7.4 Hz), 5.18 (s, 1H), 4.01 (s, 2H), 2.55 (septet, 1H, J=6.8 Hz), 2.48-2.34 (m, 3H), 2.08-1.95 (m, 4H), 1.78 (d, 2H, J=12.8 Hz), 1.22 (d, 6H, J=6.8 Hz); ESMS m/e: 410.1 (M+H)+.

reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | 1.50 mmol, 0.369 g | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
reactant | formaldehyde | 1.50 mmol, 30.0 mg | C=O | CH2O
reactant | 6-chloro-1-H-indole | 1.00 mmol, 0.152 g | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
solvent | HOAc dioxane | 1 mL | CC(=O)O.O1CCOCC1
solvent | H2O | 10 mL | O | H2O
product | N-(3-{1-[(6-CHLORO-1H-INDOL-3-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | 79 mg, 42% | ClC1=CC=C2C(=CNC2=C1)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C24H28ClN3O
